US07960404B2
Stage 3: 4-Benzyl-4-(4-methoxybenzylamino)cyclohexanone (Keto Structural Unit 4)
6 M hydrochloric acid (7 ml) was added to a solution of (8-benzyl-1,4-dioxaspiro[4,5]dec-8-yl)(4-methoxybenzyl)amine (1.2 g, 3.3 mmol) in acetone (17 ml). The reaction solution was stirred for 20 h at room temperature, then made alkaline (pH˜9) with 25% potassium carbonate solution and extracted with diethyl ether (3×20 ml). The combined organic phases were dried with sodium sulfate and concentrated to approx. 10 ml under vacuum. The precipitated deposit was filtered off and dried under vacuum. Yield: 790 mg (74%), white solid. Melting point: 122-124° C.

reactant | hydrochloric acid | 6 M, 7 ml | Cl | ClH
reactant | (8-benzyl-1,4-dioxaspiro[4,5]dec-8-yl)(4-methoxybenzyl)amine | 3.3 mmol, 1.2 g | C(C1=CC=CC=C1)C1(CCC2(OCCO2)CC1)NCC1=CC=C(C=C1)OC | C23H29NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 17 ml | CC(=O)C | C3H6O
product | 4-Benzyl-4-(4-methoxybenzylamino)cyclohexanone | C(C1=CC=CC=C1)C1(CCC(CC1)=O)NCC1=CC=C(C=C1)OC | C21H25NO2
